US04968800
(3R)-3-Aminopyrrolidine D(-)-tartrate (236 mg) prepared in Reference Example 1-(1) is dissolved in water (40 ml) and thereto is added sodium hydroxide (80 mg), and the mixture is stirred at room temperature. To the solution is added platinum (II) potassium chloride (415 mg), and the mixture is stirred at room temperature overnight. The precipitated solid is removed by filtration, and the filtrate is concentrated under reduced pressure. To the residue is added water (2 ml), and the resulting crystals are separated by filtration and washed with water and acetone to give cis-dichloro-(3R)-3-aminopyrrolidine platinum (II) (200 mg) as pale yellow crystal.

reactant | (3R)-3-Aminopyrrolidine D(-)-tartrate | 236 mg | C(=O)(O)[C@@H](O)[C@H](O)C(=O)O.N[C@H]1CNCC1
reactant | sodium hydroxide | 80 mg | [OH-].[Na+]
reactant | platinum (II) potassium chloride | 415 mg | [Cl-].[K+].[Pt+2].[Cl-].[Cl-]
solvent | water | 40 ml | O | H2O
product | cis-dichloro-(3R)-3-aminopyrrolidine platinum (II) | 200 mg | [Pt+2].Cl[C@H]1N(CC[C@H]1N)Cl | InChI=1S/C4H8Cl2N2.Pt/c5-4-3(7)1-2-8(4)6;/h3-4H,1-2,7H2;/q;+2/t3-,4+;/m1./s1
